US05958910
A solution of 0.29 g of N-(4-biphenyl-3-yl-thiazol-2-yl)-N-methoxymethyl-4-methyl-benzenesulfonamide in 6 ml of tetrahydrofuran was stirred at room temperature for 6 hours after the addition of 1.5 ml of 6N hydrochloric acid. The reaction mixture was added to 40 ml of water and extracted with ethyl acetate. The organic phases were combined, dried with magnesium sulphate and concentrated. Recrystallization from 10 ml of 50% ethanol yielded 120 mg of N-(4-biphenyl-3-yl-thiazol-2-yl)-4-methyl-benzenesulfonamide as colorless crystals.

reactant | N-(4-biphenyl-3-yl-thiazol-2-yl)-N-methoxymethyl-4-methyl-benzenesulfonamide | 0.29 g | C1(=CC(=CC=C1)C=1N=C(SC1)N(S(=O)(=O)C1=CC=C(C=C1)C)COC)C1=CC=CC=C1 | C24H22N2O3S2
reactant | hydrochloric acid | 6N, 1.5 ml | Cl | ClH
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-(4-biphenyl-3-yl-thiazol-2-yl)-4-methyl-benzenesulfonamide | 120 mg | C1(=CC(=CC=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C22H18N2O2S2
